US05272221
PREPARATION EXAMPLE 3 (SYNTHESIS OF GLYCOLIC ACID-LACTIC ACID COPOLYMER)
1161 g (10 mols) of glycolide and 1441 g (10 mols) of L-lactide were placed in a glass reactor, and 10 ml of a toluene solution containing 0.26 g of stannous octoate and 9.0 g of lauryl alcohol were added to the reactor. Afterward, deaeration was carried out for 2 hours under reduced pressure, and the atmosphere in the reactor was then replaced with a nitrogen gas. This mixture was heated at 220° C. for 2 hours with stirring under the nitrogen atmosphere. While the temperature was maintained as it was, the deaeration was slowly performed by means of a vacuum pump through an exhaust pipe to reduce the pressure in the reactor to 3 mm Hg. One hour after the start of the deaeration, the monomers and low-molecular substances were not extracted any more, and the interior of the reactor was replaced with nitrogen and a resultant glycolic acid-lactic acid copolymer (hereinafter referred to as "PLGA") was then taken out.

reactant | glycolide | 10 mols, 1161 g | C1C(=O)OCC(=O)O1 | C4H4O4
reactant | L-lactide | 10 mols, 1441 g | C[C@H]1C(=O)O[C@H](C(=O)O1)C | C6H8O4
reactant | stannous octoate | 0.26 g | CCCCC(CC)C(=O)[O-].CCCCC(CC)C(=O)[O-].[Sn+2]
reactant | lauryl alcohol | 9.0 g | C(CCCCCCCCCCC)O | C12H26O
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | GLYCOLIC ACID LACTIC ACID | C(CO)(=O)O.C(C(O)C)(=O)O | InChI=1S/C3H6O3.C2H4O3/c1-2(4)3(5)6;3-1-2(4)5/h2,4H,1H3,(H,5,6);3H,1H2,(H,4,5)
